US04156079
D. 4-Chloro-N-[[5-methoxy-2-[3-(4-morpholinyl)propoxy]phenyl]methyl]-N-(2-phenylethyl)benzamide, hydrochloride
A solution of 16.0 g. of 4-[3-[4-methoxy-2-[[(2-phenylethyl)amino]methyl]phenoxy]propyl]morpholine in 50 ml. of chloroform is added dropwise (at 10°-15° C.) to a stirred solution of 7.7 g of p-chlorobenzoyl chloride in 150 ml. of chloroform. After the addition is completed, the solution is stirred at room temperature for 2 hours, heated at reflux for 1 hour, cooled and concentrated to give a glass-like residue. The residue is rubbed under ether, the evaporation repeated and the partly solid residue taken up in 100 ml of acetonitrile. On diluting to 650 ml with ether, seeding and rubbing, the crystalline hydrogen chloride salt separates. After cooling overnight, the product weighs 21.7 g, melting point 137°-139° C. Recrystallization from 50 ml of warm acetonitrile-50 ml of ether, yields 20.3 g of the title compound, melting point 138°-140° C.

reactant | 4-[3-[4-methoxy-2-[[(2-phenylethyl)amino]methyl]phenoxy]propyl]morpholine | COC1=CC(=C(OCCCN2CCOCC2)C=C1)CNCCC1=CC=CC=C1 | C23H32N2O3
reactant | p-chlorobenzoyl chloride | 7.7 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloro-N-[[5-methoxy-2-[3-(4-morpholinyl)propoxy]phenyl]methyl]-N-(2-phenylethyl)benzamide, hydrochloride | 20.3 g | Cl.ClC1=CC=C(C(=O)N(CCC2=CC=CC=C2)CC2=C(C=CC(=C2)OC)OCCCN2CCOCC2)C=C1 | InChI=1S/C30H35ClN2O4.ClH/c1-35-28-12-13-29(37-19-5-15-32-17-20-36-21-18-32)26(22-28)23-33(16-14-24-6-3-2-4-7-24)30(34)25-8-10-27(31)11-9-25;/h2-4,6-13,22H,5,14-21,23H2,1H3;1H
